US08420645B2
A suspension of 2-fluoro-N-methyl-4-[7-(quinolin-6-ylmethyl)imidazolo[1,2-b][1,2,4]triazin-2-yl]benzamide (421.2 g, 1.021 mol) (see U.S. Ser. No. 11/942,130 for preparation, the disclosure of which is incorporated herein by reference in its entirety) in methanol (MeOH, 6600 mL) was heated to 55° C. before a premixed solution of aqueous concentrated hydrochloric acid (conc. HCl, 37 wt. %, 12 M, 420 mL, 5.10 mol, 5.0 equiv) in isopropyl alcohol (IPA, 1510 mL) was added dropwise at 55° C. The resulting clear solution was stirred at 55° C. for 30 min before methyl tert-butyl ether (MTBE, 6750 mL) was added via an addition funnel over 30 min. The solids were slowly precipitated out after addition of methyl tert-butyl ether. The resulting mixture was stirred at 55° C. for an additional 1 h before being gradually cooled down to room temperature. The mixture was stirred at room temperature overnight. The solids were collected by filtration, washed with methyl tert-butyl ether (MTBE, 3×500 mL), and dried in vacuum oven at 45-55° C. to constant weight. The desired 2-fluoro-N-methyl-4-[7-(quinolin-6-ylmethyl)imidazolo[1,2-b][1,2,4]triazin-2-yl]benzamide dihydrochloride (470.7 g, 495.5 g theoretical, 95% yield) was obtained as an off-white to light yellow crystalline solid. M.p. (decom.) 222° C.; 1H NMR (400 MHz, DMSO-d6) δ ppm 9.46 (s, 1H), 9.25 (dd, 1H, J=5.4 Hz, 1.4 Hz), 9.12 (d, 1H, J=8.3 Hz), 8.51 (m, 1H), 8.47 (d, 1H, J=0.9 Hz), 8.34 (d, 1H, J=1.3 Hz), 8.23 (s, 1H), 8.21 (dd, 1H, J=9.0 Hz, 1.8 Hz), 8.09-8.02 (m, 3H), 7.79 (dd, 1H, J=7.5 Hz, 8.3 Hz), 4.77 (s, 2H), 2.78 (s, 3H, J=4.5 Hz); 13C NMR (100 MHz, DMSO-d6) δ ppm 163.4, 159.4 (d, J=249.9 Hz), 145.8, 145.4, 144.5, 143.8, 140.4, 138.8, 136.8, 135.9, 135.7 (J=8.6 Hz), 131.2 (J=3.1 Hz), 130.7, 128.7, 128.2, 126.2 (J=14.9 Hz), 126.0, 123.1 (J=3 Hz), 122.5, 121.0, 114.9 (J=5.6 Hz), 28.4, 26.3; 19F NMR (376.3 MHz, DMSO-d6) δ ppm −113.2; C23H17FN6O (free base, MW 412.42), LCMS (EI) m/e 413.1 (M++H) and 435.0 (M++Na).

reactant | 2-fluoro-N-methyl-4-[7-(quinolin-6-ylmethyl)imidazolo[1,2-b][1,2,4]triazin-2-yl]benzamide | 1.021 mol, 421.2 g | FC1=C(C(=O)NC)C=CC(=C1)C=1C=NC=2N(N1)C(=CN2)CC=2C=C1C=CC=NC1=CC2 | C23H17FN6O
reactant | hydrochloric acid | 5.10 mol, 12 M, 420 mL, 5.0 equiv | Cl | ClH
reactant | methyl tert-butyl ether | 6750 mL | C(C)(C)(C)OC | C5H12O
solvent | methanol | 6600 mL | CO | CH4O
solvent | isopropyl alcohol | 1510 mL | C(C)(C)O | C3H8O
product | 2-fluoro-N-methyl-4-[7-(quinolin-6-ylmethyl)imidazolo[1,2-b][1,2,4]triazin-2-yl]benzamide dihydrochloride | 470.7 g, 95% yield | Cl.Cl.FC1=C(C(=O)NC)C=CC(=C1)C=1C=NC=2N(N1)C(=CN2)CC=2C=C1C=CC=NC1=CC2 | InChI=1S/C23H17FN6O.2ClH/c1-25-22(31)18-6-5-16(11-19(18)24)21-13-28-23-27-12-17(30(23)29-21)10-14-4-7-20-15(9-14)3-2-8-26-20;;/h2-9,11-13H,10H2,1H3,(H,25,31);2*1H
